US05654307
Treatment of 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine (see a previous experimental) at 100° C. in a pressure vessel with piperidine in ethanol gives 4-(3-bromoanilino)-6-dimethylaminopyrido[3,4-d]pyrimidine.

reactant | 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)F)C=CC1 | C13H8BrFN4
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-bromoanilino)-6-dimethylaminopyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)N(C)C)C=CC1 | C15H14BrN5
